Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Percocet / Codeine / Morphine Sulfate / Latex / 
hydrocodone-acetaminophen / pravastatin
 
Attending: ___
 
Chief Complaint:
Hemiparesis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with PMH of HTN, HLD, DM and CAD 
who was found down at home with R sided weakness and aphasia.

Pt lives alone and her nephew was staying with her, and last saw 
her normal at midnight. They both went to bed and she was found 
on the ground at 9 am by her home aid who had come in as she 
normally does. EMS was called and she was brought to the ED. Her 
head CT showed hypodensity in L basal ganglia. 

ROS: unable to obtain due to global aphasia.
 
Past Medical History:
CATARACT s/p surgery
COLON CANCER 
CORONARY ARTERY DISEASE 
DEPRESSION 
GOUT 
HYPERTENSION 
INSULIN DEPENDENT DIABETES MELLITUS 
RENAL INSUFFICIENCY 
RETINA EYE CARE 
TEMPORAL ARTERITIS 
BENIGN POSITIONAL VERTIGO 
CONDYLOMA ACUMINATA 
SLEEP APNEA 
PARTIAL REMOVAL OF THE RIGHT OVARY ___ 
TAH/LSO ___ 
CHOLECYSTECTOMY
 
Social History:
___
Family History:
moved from ___ ___ years ago, lives alone and is functionally 
independent save for her baseline poor vision. Does have home 
aid who comes in to help with cleaning.
 
Physical Exam:
Admission exam:
59 174/60 14 99% RA 
General: somnolent, arouses to voice/light touch.
HEENT: NC/AT
Neck: supple
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: protuberant but soft and nontender
Extremities: no edema, warm to touch.
Skin: no rashes or lesions noted.
.
Neurologic:
- Mental Status: awakens to voice/light touch easily. Globally 
aphasic without verbal output, not following commands such as 
stick out tongue/show thumb/fingers in ___ or Farsi (does 
squeeze hand on L but does it even without asking). 
.
-Cranial Nerves:
II: pupils post-surgical, irregular and nonreactive. Does not 
blink to threat on either side. 
III, IV, VI: looks to left on primary gaze but with voice from 
the right, does turn to right and looks to right, crosses 
midline occasionally but does not fully bury sclera to R. 
V: intact corneals
VII: R facial droop
VIII: hearing intact to voice, looks to voice
IX, X, XI and XII: Unable to test
.
-Motor: Normal bulk, decreased tone on R, normal on L. Increased 
tone in legs bilaterally. No spontaneous movement in RUE/RLE but 
does withdraw from noxious stimuli. Moves LUE spontaneously and 
purposefully and moves LLE occasionally as well. 
.
-Sensory: withdraws from noxious stimuli in all extremities.
-DTRs: 
  Bi Tri ___ Pat Ach
L  2  2    2    0   0
R  2  2    2    0   0

Plantar response was flexor on L and extensor on R.
-Coordination/Gait: unable to test. 
.
.
Discharge exam:
98.6  97.8  129-201/46-71  60-70  ___  98-100% RA  200s-300s 
prior to NPH (HS), 123 this AM
PULM: Lungs are clear at the bases
MS: Rouses easily to voice if sleeping, global aphasia but 
understands some commands (better in Farsi). No speech 
production or mouthing words.
CN: R NLF flattening
MOTOR: No spontaneous movement in RUE/RLE but does withdraw from 
noxious stimuli leg more than arm
SENSORY: Withdraws to noxious in all extremities
Otherwise the examination is unchanged from admission.
 
Pertinent Results:
Stroke labs:
___ 09:40AM BLOOD %HbA1c-7.1* eAG-157*
___ 08:50PM BLOOD Triglyc-93 HDL-88 CHOL/HD-2.4 LDLcalc-108
___ 08:50PM BLOOD TSH-1.1
.
General labs:
___ 09:40AM BLOOD WBC-6.2 RBC-3.04* Hgb-9.8* Hct-31.8* 
MCV-105* MCH-32.2* MCHC-30.8* RDW-16.3* Plt ___
___ 10:26AM BLOOD ___ PTT-20.6* ___
___ 09:40AM BLOOD Plt ___
___ 09:40AM BLOOD Glucose-112* UreaN-35* Creat-1.2* Na-140 
K-4.4 Cl-102 HCO3-30 AnGap-12
___ 08:50PM BLOOD Glucose-91 UreaN-28* Creat-1.1 Na-144 
K-4.2 Cl-106 HCO3-27 AnGap-15
___ 09:40AM BLOOD ALT-16 AST-16 AlkPhos-46 TotBili-0.5
___ 05:05PM BLOOD CK(CPK)-56
___ 09:40AM BLOOD cTropnT-<0.01
___ 05:05PM BLOOD CK-MB-3 cTropnT-<0.01
___ 09:40AM BLOOD Albumin-4.2 Calcium-8.9 Phos-3.9 Mg-2.3
___ 09:40AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:10AM URINE Color-Straw Appear-Clear Sp ___
___ 11:10AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:10AM URINE RBC-<1 WBC-0 Bacteri-FEW Yeast-NONE 
Epi-<1
.
Studies:
MRI ___
IMPRESSION:
1. Left MCA territorial infarct without convincing evidence of 
hemorrhagic
transformation.
2. Focal loss of the flow void of the left MCA with 
corresponding segmental
focus of "blooming" susceptibility artifact, likley 
thrombo-embolic material.
.
CTA brain/neck
 1. Left MCA territory hypodensity consistent with infarct 
better evaluated on
the non contrast CT head and MR head ___.  
 
2. Focal occlusion of the left MCA, extending from its mid-M1 
segment to its bifurcation, with partial reconstitution of 
distal branches which are
attenuated.  
 
3. Heterogeneous thyroid gland with a 1.7 cm lesion within the 
isthmus which should be further characterized with sonography, 
as clinically warranted.
.
.
DISCHARGE LABS:

___ 06:45AM BLOOD WBC-5.4 RBC-2.90* Hgb-9.6* Hct-30.3* 
MCV-105* MCH-33.1* MCHC-31.7 RDW-15.8* Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD ___ PTT-50.1* ___
___ 06:45AM BLOOD Glucose-105* UreaN-31* Creat-1.2* Na-143 
K-3.5 Cl-105 HCO3-29 AnGap-13
___ 06:45AM BLOOD Calcium-8.8 Phos-4.4 Mg-1.8
 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman who was brought in after 
being found down and was subsequently diagnosed with left M1 
occlusion resulting in a stroke involving mostly the superior 
division and lenticulostriates. 
.
ACTIVE ISSUES
# Stroke: She was started on heparin as a bridge to warfarin as 
she had a large thrombus in her left M1 while her inferior M2 
did appear patent. There was concern that clot might migrate or 
expand, significantly worsening her stroke. Plan to continue 
coumadin for 3 months. She was started on atorvastatin and 
metformin as well given her risk factors (see "labs" above). 
There was no obvious cardiac source on TTE or carotid source on 
CTA. She was started on metformin and atorvastatin. Blood 
pressure regimen was gradually re-introduced after a period of 
permissive HTN; she is currently on her home regimen except for 
Diovan, which can be re-introduced as pressures tolerate to a 
goal systolic of 100-130.
.
# INSULIN DEPENDENT DIABETES MELLITUS: Patient was started on 
metformin given improved kidney function from baseline and 
utility of weight loss. She was continued on a sliding scale 
without long-acting initially; her home NPH was resumed on 
___ and should be titrated to euglycemia. 
.
# RENAL INSUFFICIENCY: Admitted with creatinine slightly better 
than baseline. Appeared to be slightly hypovolemic on ___ so 
furosemide decreased on ___ from 40 to 30mg daily. Please 
titrate furosemide to euvolemia.  
.
# HTN: HELD isosorbide and Diovan during hospitalization; 
pressures within acceptable range without this. Atenolol was 
given at half-dose (12.5mg daily) during hospital stay. Her 
former home meds may be GRADUALLY resumed if her SBPs are > 140
.
INACTIVE ISSUES
# ANEMIA: At baseline during this hospital stay
# CATARACT s/p surgery
# COLON CANCER 
# CORONARY ARTERY DISEASE 
# DEPRESSION 
# GOUT 
# HYPERTENSION 
# RETINA EYE CARE 
# TEMPORAL ARTERITIS 
# BENIGN POSITIONAL VERTIGO 
# CONDYLOMA ACUMINATA 
# SLEEP APNEA 
# PARTIAL REMOVAL OF THE RIGHT OVARY ___ 
# TAH/LSO ___ 
# CHOLECYSTECTOMY 
.
TRANSITIONAL ISSUES
# Stroke: Plan to continue coumadin for 3 months. Please check 
INR daily until stable in the ___ range. ___ stop heparin drip 
when INR > 2. Until that time, check PTT q6 hours with a goal 
PTT 40-60; adjust heparin drip as needed. Follow up with 
___ as below. 
.
# Nutrition: Passed speech and swallow but make sure pt is alert 
and sitting up at meal times. ___ require maintenance fluids, 
dietary supplementation.
.
# HLD: Follow for signs of discomfort that might indicate 
myalgias (occurred with pravastatin in the past or elevation in 
creatinine (check CK); started atorvastatin ___ and has had 
myalgias with simvastatin in the past. 
.
# HTN: HELD Diovan during hospitalization; please resume Diovan 
as pressures tolerate (goal is now normotension, SBP 100-130). 
Atenolol was given at half-dose (12.5mg daily) during hospital 
stay. 
.
# CKD: Admitted with creatinine better than baseline; home dose 
lasix 40 BID but lowered here. Appeared to be slightly 
hypovolemic on ___ so furosemide further decreased on ___ 
from 40 to 30mg daily. Please titrate furosemide to euvolemia. 
.
# Diabetes: Follow for response on metformin. Continue on 
sliding scale; increase as needed (she is on her home dose of 
NPH/Novolin N)
.
# Thyroid nodule: Please order follow-up ultrasound for further 
evaluation of isthmus.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aldara (imiquimod) 5 % topical 3 times per week 
2. Colchicine 0.6 mg PO EVERY OTHER DAY:PRN gout flare 
3. Valsartan 160 mg PO DAILY 
4. Endocet (oxyCODONE-acetaminophen) ___ mg oral TID:PRN pain 
5. Guaifenesin-Dextromethorphan ___ mL PO HS:PRN cough 
6. Polyethylene Glycol 17 g PO DAILY constipation 
7. NovoLIN N (NPH insulin human recomb) 100 unit/mL subcutaneous 
unknown 
8. RISperidone 0.5 mg PO HS 
9. Allopurinol ___ mg PO DAILY 
10. Atenolol 25 mg PO DAILY 
11. Clobetasol Propionate 0.05% Cream 1 Appl TP DAILY 
12. Diazepam 5 mg PO DAILY:PRN muscle spasm 
13. Fluocinonide 0.05% Cream 1 Appl TP DAILY:PRN scalp itch 
14. Furosemide 40 mg PO BID 
15. imiquimod 5 % topical every other day 
16. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
17. Nitroglycerin SL 0.4 mg SL PRN angina 
18. PredniSONE 10 mg PO DAILY:PRN gout flare 

 
Discharge Medications:
1. Atorvastatin 40 mg PO DAILY 
2. Colchicine 0.6 mg PO EVERY OTHER DAY:PRN gout flare 
3. Diazepam 5 mg PO DAILY:PRN muscle spasm 
4. Endocet (oxyCODONE-acetaminophen) ___ mg oral TID:PRN pain 
5. Guaifenesin-Dextromethorphan ___ mL PO HS:PRN cough 
6. imiquimod 5 % TOPICAL EVERY OTHER DAY 
7. Nitroglycerin SL 0.4 mg SL PRN angina 
8. Polyethylene Glycol 17 g PO DAILY constipation 
9. RISperidone 0.5 mg PO HS 
10. MetFORMIN (Glucophage) 500 mg PO BID 
11. Senna 1 TAB PO BID 
12. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin
13. Bisacodyl 10 mg PR HS:PRN constipation 
14. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
15. Docusate Sodium 100 mg PO BID 
16. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
17. Glucose Gel 15 g PO PRN hypoglycemia protocol 
18. Allopurinol ___ mg PO DAILY 
19. Atenolol 25 mg PO DAILY 
20. Furosemide 30 mg PO DAILY 
21. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
22. Heparin IV 
No Initial Bolus
Initial Infusion Rate: 1050 units/hr
23. Warfarin 7.5 mg PO DAILY16 
titrate to goal INR ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: Stroke

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Lethargic but arousable.
Mental status: Aphasic (deficits with speech production outweigh 
comprehension deficits - can follow simple commands)

 
Discharge Instructions:
Dear ___,

___ were admitted to the neurology service at the ___ 
because of a stroke on the left side of your brain which has 
interfered with your ability to move the right side of your body 
and your ability to produce and understand speech. The exact 
source of the clot is not completely clear, but based on the 
evidence we have, it would be prudent to give ___ an 
anticoagulant called coumadin for 3 months. We hope that this 
will prevent the clot which has blocked off one of your blood 
vessels from expanding and blocking off nearby vessels which 
also supply areas of the brain important for speech. 

___ will follow up with Dr. ___ in neurology as dictated 
below.

Your medication list has changed; your rehab facility will 
provide ___ an updated list before discharge. 
 
Followup Instructions:
___